US09447114B2
To a solution of 3-(5-(4-chlorobenzyl)-6-(3-chlorophenyl)-1-methyl-2,4-dioxo-1,2-dihydrothieno[2,3-d]pyrimidin-3(4H)-yl)propyl 2,2,2-trifluoroacetate (40 mg, 0.070 mmol) in THF (4 mL) and water (4 mL) was added LiOH.H2O (5.88 mg, 0.14 mmol). The reaction was stirred at RT for 15 min then diluted with DCM (5 mL) and water (5 mL). The organic layer was dried over Na2SO4 and concentrated to a residue which was purified by Prep HPLC to give 5-(4-chlorobenzyl)-6-(3-chlorophenyl)-3-(3-hydroxypropyl)-1-methylthieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (16 mg, 48.1% yield) as a white solid. 1H-NMR (DMSO-d6) δ: 7.49 (d, J=5.1 Hz, 2H), 7.40 (s, 1H), 7.36-7.32 (m, 1H), 7.29 (d, J=8.4 Hz, 2H), 7.04 (d, J=8.4 Hz, 2H), 4.45 (t, J=5.2 Hz, 1H), 4.30 (s, 2H), 3.97-3.82 (m, 2H), 3.52 (d, J=14.8 Hz, 3H), 3.42 (dd, J=11.7, 6.3 Hz, 2H), 1.67 (dd, J=14.2, 6.9 Hz, 2H). LCMS: MH+ 475 and TR=3.252 min.

reactant | 3-(5-(4-chlorobenzyl)-6-(3-chlorophenyl)-1-methyl-2,4-dioxo-1,2-dihydrothieno[2,3-d]pyrimidin-3(4H)-yl)propyl 2,2,2-trifluoroacetate | 0.070 mmol, 40 mg | FC(C(=O)OCCCN1C(N(C2=C(C1=O)C(=C(S2)C2=CC(=CC=C2)Cl)CC2=CC=C(C=C2)Cl)C)=O)(F)F | C25H19Cl2F3N2O4S
reactant | LiOH.H2O | 0.14 mmol, 5.88 mg | O[Li].O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | water | 4 mL | O | H2O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | water | 5 mL | O | H2O
product | 5-(4-chlorobenzyl)-6-(3-chlorophenyl)-3-(3-hydroxypropyl)-1-methylthieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 16 mg, 48.1% yield | ClC1=CC=C(CC2=C(SC=3N(C(N(C(C32)=O)CCCO)=O)C)C3=CC(=CC=C3)Cl)C=C1 | C23H20Cl2N2O3S
